US08629166B2
a) 5-Cyclopent-1-enyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methylester
The title compound was synthesized in analogy to Example 2a using 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester (CAN 1211589-51-3) and 2-(1-cyclopenten-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (CAN 287944-10-9) as starting materials; MS (ESI) 302.0 (M+H)+.

reactant | 5-bromo-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)OCC(F)(F)F | C9H7BrF3NO3
reactant | 2-(1-cyclopenten-1-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C1(=CCCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2
product | 5-Cyclopent-1-enyl-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methylester | COC(C1=CN=C(C(=C1)C1=CCCC1)OCC(F)(F)F)=O | C14H14F3NO3
